US07601722B2
In an analogous manner to general procedure V, 1-[2-(2-bromoethoxy)ethyl]-3-(2,6-difluorophenyl)-1,3-dihydro-2,1,3-benzothiadiazole 2,2-dioxide (0.1 g, 0.23 mmol) was treated with cyclobutylamine (0.8 mL, 9.2 mmol) in methanol to give N-(2-{2-[3-(2,6-difluorophenyl)-2,2-dioxido-2,1,3-benzothiadiazol-1(3H)-yl]ethoxy}ethyl)cyclobutanamine which was treated with 1N hydrochloric acid in ether to give its hydrochloride salt as a white solid (0.59 g, 56%). HRMS: calcd for C20H23F2N3O3S+H+, 424.15009; found (ESI, [M+H]+Obs'd), 424.1497.

reactant | 1-[2-(2-bromoethoxy)ethyl]-3-(2,6-difluorophenyl)-1,3-dihydro-2,1,3-benzothiadiazole 2,2-dioxide | 0.23 mmol, 0.1 g | BrCCOCCN1S(N(C2=C1C=CC=C2)C2=C(C=CC=C2F)F)(=O)=O | C16H15BrF2N2O3S
reactant | cyclobutylamine | 9.2 mmol, 0.8 mL | C1(CCC1)N | C4H9N
solvent | methanol | CO | CH4O
product | N-(2-{2-[3-(2,6-difluorophenyl)-2,2-dioxido-2,1,3-benzothiadiazol-1(3H)-yl]ethoxy}ethyl)cyclobutanamine | FC1=C(C(=CC=C1)F)N1S(N(C2=C1C=CC=C2)CCOCCNC2CCC2)(=O)=O | C20H23F2N3O3S
